US08039472B2
3,5-Diamino-6-chloro-pyrazine-2-carboxylic acid [8-[2-(4-benzyloxy-phenyl)-acetyl]-1,3,8-triaza-spiro[4.5]dec-(2E)-ylidene]-amide
A mixture of 3,5-diamino-6-chloro-pyrazine-2-carboxylic acid [1,3,8-triaza-spiro[4.5]dec-(2E)-ylidene]-amide dihydrochloride (Ex. 38) (300 mg, 0.83 mmol), 4-benzyloxyphenylacetic acid (200 mg, 0.83 mmol), N-methyl morpholine (0.40 ml, 3.64 mmol) and HATU (315 mg, 0.83 mmol) in anhydrous DMF (20 ml) is stirred at room temperature for 16 hours. The reaction mixture is concentrated in vacuo and subjected to column chromatography (basic alumina, 0-3% MeOH in DCM) to obtain pale yellow solid. The product is dissolved in DCM and MeOH and re-precipitated by adding diethyl ether. The supernatant solvent mixture is decanted and the product is washed again with diethyl ether and dried under vacuum to afford the title compound as a pale yellow solid; [M+H]+ 549.

reactant | 3,5-diamino-6-chloro-pyrazine-2-carboxylic acid [1,3,8-triaza-spiro[4.5]dec-(2E)-ylidene]-amide dihydrochloride | 0.83 mmol, 300 mg | Cl.Cl.N1\C(\NCC12CCNCC2)=N\C(=O)C2=NC(=C(N=C2N)N)Cl
reactant | 4-benzyloxyphenylacetic acid | 0.83 mmol, 200 mg | C(C1=CC=CC=C1)OC1=CC=C(C=C1)CC(=O)O | C15H14O3
reactant | N-methyl morpholine | 3.64 mmol, 0.40 ml | CN1CCOCC1 | C5H11NO
reactant | HATU | 0.83 mmol, 315 mg | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
solvent | DMF | 20 ml | CN(C)C=O | C3H7NO
solvent | DCM | C(Cl)Cl | CH2Cl2
product | 3,5-Diamino-6-chloro-pyrazine-2-carboxylic acid [8-[2-(4-benzyloxy-phenyl)-acetyl]-1,3,8-triaza-spiro[4.5]dec-(2E)-ylidene]-amide | C(C1=CC=CC=C1)OC1=CC=C(C=C1)CC(=O)N1CCC2(CN/C(/N2)=N\C(=O)C2=NC(=C(N=C2N)N)Cl)CC1 | C27H29ClN8O3
